US08735414B2
To 6-bromo-5-fluoro-1H-indole (9.4 g, 43.9 mmol) in DMF (50 mL) at −78° C. was added chlorosulfonyl isocyanate (4.6 mL, 53 mmol). After complete addition the mixture was allowed to warm to room temperature and stir for 2 hrs. The reaction mixture was poured into ice water and stirred for 30 minutes. The precipitate was collected on a filter, washed with ice water and dried in a vacuum oven to give 6-bromo-5-fluoro-1H-indole-3-carbonitrile as a light-beige solid (10.5 g, 100%).

reactant | 6-bromo-5-fluoro-1H-indole | 43.9 mmol, 9.4 g | BrC1=C(C=C2C=CNC2=C1)F | C8H5BrFN
reactant | chlorosulfonyl isocyanate | 53 mmol, 4.6 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 6-bromo-5-fluoro-1H-indole-3-carbonitrile | 10.5 g, 100% | BrC1=C(C=C2C(=CNC2=C1)C#N)F | C9H4BrFN2
